US07030107B2
In a similar manner to Example 11, 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (40.0 mg) was reacted with 3-(N-(t-butoxycarbonyl)-N-methylamino)pyrrolidine (38.9 mg) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-9-[3-(methylamino)pyrrolidine-1-yl]-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (22.5 mg, 50%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 40.0 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=CC=CC=C3)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C24H17ClF6N2O2
reactant | 3-(N-(t-butoxycarbonyl)-N-methylamino)pyrrolidine | 38.9 mg | C(C)(C)(C)OC(=O)N(C)C1CNCC1 | C10H20N2O2
product | 5-[3,5-bis(trifluoromethyl)benzyl]-9-[3-(methylamino)pyrrolidine-1-yl]-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 22.5 mg, 50% | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=CC=CC=C3)N3CC(CC3)NC)=O)C=C(C1)C(F)(F)F)(F)F | C29H28F6N4O2
